US06184225B2
A saturated solution of hydrogen chloride in ethyl acetate (4 ml) was added to N-t-butoxycarbonyl-4-chloro-2,6-difluoroaniline (330 mg, 1.3 mmol) and the mixture stirred at ambient temperature for 2 hours. The precipitate was collected by filtration to give 4-chloro-2,6-difluoroaniline hydrochloride (140 mg, 56%).

reactant | hydrogen chloride | Cl | ClH
reactant | N-t-butoxycarbonyl-4-chloro-2,6-difluoroaniline | 1.3 mmol, 330 mg | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1F)Cl)F | C11H12ClF2NO2
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
product | 4-chloro-2,6-difluoroaniline hydrochloride | 140 mg, 56% | Cl.ClC1=CC(=C(N)C(=C1)F)F | InChI=1S/C6H4ClF2N.ClH/c7-3-1-4(8)6(10)5(9)2-3;/h1-2H,10H2;1H
